US07692011B2
Step B: Preparation of 3-(4-Chlorophenyl)-9-hydroxypyrido[1,2-a]pyrimidin-4-one (1069)
2-Amino-3-hydroxypyridine (5.51 g, 0.05 mol) and 2-(4-chlorophenyl)-3-oxo-propanoic acid ethyl ester (13.6 g, 0.06 mol) in EtOH (100 mL) were heated under reflux for 15 h and then allowed to cool. The precipitate was isolated via filtration to yield a 9:1 mixture of the enamine and the cyclized product (11.1 g).

reactant | 2-Amino-3-hydroxypyridine | 0.05 mol, 5.51 g | NC1=NC=CC=C1O | C5H6N2O
reactant | 2-(4-chlorophenyl)-3-oxo-propanoic acid ethyl ester | 0.06 mol, 13.6 g | C(C)OC(C(C=O)C1=CC=C(C=C1)Cl)=O | C11H11ClO3
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-(4-Chlorophenyl)-9-hydroxypyrido[1,2-a]pyrimidin-4-one | ClC1=CC=C(C=C1)C1=CN=C2N(C1=O)C=CC=C2O | C14H9ClN2O2
